US08017608B2
25a) 4-Methyl-5-(4-nitro-phenyl)-thiazol-2-ylamine
A solution of N-[4-methyl-5-(4-nitro-phenyl)-thiazol-2-yl]-acetamide (prepared by the method described in J. Liebscher, E. Mitzner, Synthesis, 1985, (4), p 414) (10 g, 36 mmol) in ethanol (200 ml) and 7M hydrochloric acid (50 ml) is heated at reflux with stirring for 4 hours. After standing at room temperature for 4 days the hydrochloride salt of the title compound (8.15 g) precipitates as yellow crystals which are removed by filtration and dried. The title compound (free base) is obtained by partitioning the hydrochloride salt between aqueous sodium hydroxide and ethyl acetate. The organic extract is separated, dried (MgSO4) and the solvent is removed to give an orange solid (6.58 g). 1N nmr (CDCl3): 2.38 (4H, s, Me), 5.02 (2H, br s, NH2), 7.45 (2H, d), 8.20 (2H, d)

reactant | N-[4-methyl-5-(4-nitro-phenyl)-thiazol-2-yl]-acetamide | CC=1N=C(SC1C1=CC=C(C=C1)[N+](=O)[O-])NC(C)=O | C12H11N3O3S
reactant | hydrochloric acid | 7M, 50 ml | Cl | ClH
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 4-Methyl-5-(4-nitro-phenyl)-thiazol-2-ylamine | CC=1N=C(SC1C1=CC=C(C=C1)[N+](=O)[O-])N | C10H9N3O2S
